US09328106B2
To a solution of 2-(2-methyl-4-nitro-pyrazol-3-yl)tetrahydropyran-4-one (300 mg, 1.33 mmol) in DCM (12 mL) at −70° C. was added boron trifluoride etherate (0.75 mL, 1.73 mmol) dropwise followed by a (trimethylsilyl)diazomethane solution (2 M in hexanes, 0.87 mL, 1.73 mmol). The reaction mixture was stirred at −70° C. for 90 min, quenched with water (10 mL), diluted with DCM (12 mL) and warmed to room temperature. The organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 7-(1-methyl-4-nitro-1H-pyrazol-5-yl)oxepan-4-one as a colourless solid (121 mg) and its regioisomer 2-(1-methyl-4-nitro-1H-pyrazol-5-yl)oxepan-4-one (151 mg). To a solution of 7-(1-methyl-4-nitro-1H-pyrazol-5-yl)oxepan-4-one (121 mg, 0.51 mmol) in MeOH (5 mL) at 0° C. was added portionwise NaBH4 (23 mg, 0.61 mmol). Stirring continued for 1 hr and the reaction mixture was quenched with 1 M HCl (5 mL) and EtOAc (10 mL). The aqueous layer was extracted with EtOAc (3×20 mL) and the combined organic layers were washed with brine (30 mL), separated, dried over Na2SO4 and concentrated under reduced pressure to give 7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-ol as a 1:1 mixture of diastereomers as a colourless oil (85 mg, 27% over two steps). The product was used without further purification as a 1/1 mixture of diastereoisomers. 1H NMR (400 MHz, CDCl3) δ 8.02 and 8.01 (s, 1H), 5.61-5.56 and 5.54-5.50 (m, 1H), 4.26-4.14 (m, 1H), 4.07 and 4.04 (s, 3H), 3.90-3.80 and 3.81-3.63 (m, 1H), 2.20-1.80 (m, 8H).

reactant | 7-(1-methyl-4-nitro-1H-pyrazol-5-yl)oxepan-4-one | 0.51 mmol, 121 mg | CN1N=CC(=C1C1CCC(CCO1)=O)[N+](=O)[O-] | C10H13N3O4
reactant | NaBH4 | 0.61 mmol, 23 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-ol | CN1N=CC(=C1C1CCC(CCO1)O)[N+](=O)[O-] | C10H15N3O4
